US07488720B2
To a solution of (2R,3R,4R,5R)-4-acetyloxy-5-(acetyloxymethyl)-2-[2-(aminomethyl)-6-(cyclopentylamino)purin-9-yl]oxolan-3-yl acetate (55 mg, 0.15 mmol) in a mixture of N,N-dimethylformamide (5 ml) and water (10 ml) was added 4-sulfobenzoic acid (37 mg, 0.153 mmol) and 1(3-dimethylaminopropyl)-3-ethylcarbodiimide (28 mg, 0.147 mmol), and the mixture was stirred for 4 hours. Solvent was removed under reduced pressure, and the residue was purified by HPLC, to provide 4-[N-({9-[(4S,2R,3R,5R)-3,4-dihydroxy-5-(hydroxymethyl)oxolan-2-yl]-6-(cyclopentylamino)purin-2-yl}methyl)carbamoyl]benzenesulfonic acid (39 mg). MS MH+548.57.

reactant | (2R,3R,4R,5R)-4-acetyloxy-5-(acetyloxymethyl)-2-[2-(aminomethyl)-6-(cyclopentylamino)purin-9-yl]oxolan-3-yl acetate | 0.15 mmol, 55 mg | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(C)=O)COC(C)=O)N1C2=NC(=NC(=C2N=C1)NC1CCCC1)CN | C22H30N6O7
reactant | 4-sulfobenzoic acid | 0.153 mmol, 37 mg | S(=O)(=O)(O)C1=CC=C(C(=O)O)C=C1 | C7H6O5S
reactant | 1(3-dimethylaminopropyl)-3-ethylcarbodiimide | 0.147 mmol, 28 mg | CN(CCCN=C=NCC)C | C8H17N3
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | water | 10 ml | O | H2O
product | 4-[N-({9-[(4S,2R,3R,5R)-3,4-dihydroxy-5-(hydroxymethyl)oxolan-2-yl]-6-(cyclopentylamino)purin-2-yl}methyl)carbamoyl]benzenesulfonic acid | 39 mg | O[C@H]1[C@@H](O[C@@H]([C@H]1O)CO)N1C2=NC(=NC(=C2N=C1)NC1CCCC1)CNC(=O)C1=CC=C(C=C1)S(=O)(=O)O | C23H28N6O8S
